US08895545B2
Preparation of (E)-3-(1,2,3,4,5,6-hexahydropyrido[2,3-b][1,5]diazocin-8-yl)-N-methyl-N-((3-methylbenzofuran-2-yl)methyl)acrylamide
A suspension of tert-butyl 8-bromo-1,2,3,4-tetrahydropyrido[2,3-b][1,5]diazocine-5(6H)-carboxylate (45 mg, 0.13 mmol), N-methyl-N-((3-methylbenzofuran-2-yl)methyl)acrylamide (90 mg, 0.39 mmol) and (i-Pr)2EtN (0.11 mL, 0.66 mmol) in 3.75 mL of DMF:propionitrile (4:1) was de-oxygenated with Ar for 30 min. The mixture was treated with Pd(OAc)2 (3.0 mg, 0.013 mmol) and P(o-tol)3 (8.0 mg, 0.926 mmol) then heated to 110° C. for 20 h. The hot mixture was filtered through a pad of celite and washed with ethyl acetate 2×20 mL. The filtrate was concentrated in vacuo to obtain crude brown oil product. The resulting crude product was subjected to prep HPLC purification to obtain pure product as an off-white solid. Yield 39 mg (60%); ESI MS m/z 491 [C28H34N4O4+H]+

reactant | tert-butyl 8-bromo-1,2,3,4-tetrahydropyrido[2,3-b][1,5]diazocine-5(6H)-carboxylate | 0.13 mmol, 45 mg | BrC1=CC2=C(NCCCN(C2)C(=O)OC(C)(C)C)N=C1 | C14H20BrN3O2
reactant | N-methyl-N-((3-methylbenzofuran-2-yl)methyl)acrylamide | 0.39 mmol, 90 mg | CN(C(C=C)=O)CC=1OC2=C(C1C)C=CC=C2 | C14H15NO2
reactant | (i-Pr)2EtN | 0.66 mmol, 0.11 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | P(o-tol)3 | 0.926 mmol, 8.0 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
solvent | DMF propionitrile | 3.75 mL | CN(C)C=O.C(CC)#N
catalyst | Pd(OAc)2 | 0.013 mmol, 3.0 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-3-(1,2,3,4,5,6-hexahydropyrido[2,3-b][1,5]diazocin-8-yl)-N-methyl-N-((3-methylbenzofuran-2-yl)methyl)acrylamide | N1C2=C(CNCCC1)C=C(C=N2)/C=C/C(=O)N(CC=2OC1=C(C2C)C=CC=C1)C | C23H26N4O2
